Must be run by specifying 0 as GND
.circuit
V1 N008 0 20
E1 N005 0 N003 0 10
R1 N003 0 15
R2 N007 N008 30
R3 N006 N005 5
R4 0 N006 100
I1 N004 N001 10
R5 N002 N008 14
R6 0 N004 10
R7 N001 N002 69
V2 N003 N007 0
.end
